US09216980B2
Step 5: 3,6-Bis(1-Methyl-4-pyrazolyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A suspension of 3,6-dibromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (9.3 mg, 28 μmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (17.8 mg, 85.3 μmol) and bis(triphenylphosphine)palladium(II) dichloride (1.0 mg, 14 μmol) in acetonitrile (0.18 mL) and 2N aqueous sodium carbonate solution was heated under microwave irradiation at 140° C. for 20 minutes. The reaction mixture was allowed to cool to ambient temperature and the resultant precipitate collected by filtration, and the solid washed sequentially with water, DCM, and 20% MeOH in DCM. The filtrate was combined, the layers separated, and the aqueous phase extracted into 20% MeOH inDCM. The combined organic phase was concentrated in vacuo and the resultant residue purified by flash chromatography (silica, 0-20% MeOH in DCM) to afford the title compound. 1H NMR (DMSO-D6, 400 MHz): 12.01 (s, 1H), 8.83 (m, 2H), 8.78 (m, 1H), 8.39 (s, 1H), 8.21 (d, J=9.4 Hz, 2H), 7.97 (d, J=7.0 Hz, 2H), 3.98-3.91 (s, 6H). LCMS (Method D): RT=7.53 min, M+H+=330.

reactant | 3,6-dibromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 28 μmol, 9.3 mg | BrC1=CC2=C(NC3=C2C=C(N=C3)Br)N=C1 | C10H5Br2N3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 85.3 μmol, 17.8 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | acetonitrile | 0.18 mL | C(C)#N | C2H3N
solvent | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 14 μmol, 1.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3,6-Bis(1-Methyl-4-pyrazolyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | CN1N=CC(=C1)C1=CC2=C(NC3=C2C=C(N=C3)C=3C=NN(C3)C)N=C1 | C18H15N7
